US06825353B2
A 20% sodium hydroxide aqueous solution (4.8 ml) was added to 76.7% purity 5-acetylamino-7-[(7S)-7-tert-butoxycarbonylamino-5-azaspiro[2.4]hept-5-yl]-1-cyclopropyl-6-fluoro-1,4-dihydro-8-methyl-4-oxoquinoline-3-carboxylic acid (400.1 mg) under stirring at room temperature, and the mixture was stirred at 80° C. for 5 hours. While stirring at room temperature, the reaction solution was mixed with concentrated hydrochloric acid and stirred for 1 hour. When quantitative analysis was carried out by a high performance liquid chromatography after neutralization of the reaction solution by adding 20% sodium hydroxide aqueous solution, formed amount of the compound of interest 5-amino-7-[(7S)-7-amino-5-azaspiro[2.4]hept-5-yl]-1-cyclopropyl-6-fluoro-1,4-dihydro-8-methyl-4-oxoquinoline-3-carboxylic acid corresponded to 207.2 mg. The formation ratio was 92%.

reactant | sodium hydroxide | 4.8 ml | [OH-].[Na+]
reactant | 5-acetylamino-7-[(7S)-7-tert-butoxycarbonylamino-5-azaspiro[2.4]hept-5-yl]-1-cyclopropyl-6-fluoro-1,4-dihydro-8-methyl-4-oxoquinoline-3-carboxylic acid | 400.1 mg | C(C)(=O)NC1=C2C(C(=CN(C2=C(C(=C1F)N1CC2(CC2)[C@@H](C1)NC(=O)OC(C)(C)C)C)C1CC1)C(=O)O)=O | C27H33FN4O6
reactant | hydrochloric acid | Cl | ClH
product | 5-amino-7-[(7S)-7-amino-5-azaspiro[2.4]hept-5-yl]-1-cyclopropyl-6-fluoro-1,4-dihydro-8-methyl-4-oxoquinoline-3-carboxylic acid | NC1=C2C(C(=CN(C2=C(C(=C1F)N1CC2(CC2)[C@@H](C1)N)C)C1CC1)C(=O)O)=O | C20H23FN4O3
